US07402595B2
3-[(2Z)-3-aminopent-2-enoyl]-6-bromo-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one
A mixture of 6-bromo-3-(2-bromoacetyl)-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one (300 mg), thiopropionamide (70 mg), THF (3 ml) and ethanol (3 ml) was stirred at 80° C. for 12 hrs. The reaction mixture was concentrated under reduced pressure and saturated aqueous sodium hydrogen carbonate was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1-hexane:ethyl acetate=1:2) and recrystallized (ethyl acetate-hexane) to give the title compound (100 mg).

reactant | 6-bromo-3-(2-bromoacetyl)-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one | 300 mg | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(CBr)=O)C1=CC=CC=C1 | C25H19Br2NO4S
reactant | thiopropionamide | 70 mg | C(CC)(=S)N | C3H7NS
reactant | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 3-[(2Z)-3-aminopent-2-enoyl]-6-bromo-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one | 100 mg | N\C(=C/C(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)S(=O)(=O)C)\CC | C28H25BrN2O4S
